US06495546B1
A solution of N-(3-ethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine (115 mg) and concentrated hydrochloric acid (0.5 ml) in methanol (5 ml) was stirred at room temperature for 48 hours. The mixture was evaporated in vacuo. The residue was triturated with diethyl ether-diisopropyl ether, followed by decantation and dryness in vacuo to give (2S)-1-(3-ethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino-3-phenoxy-2-propanol hydrochloride (30 mg).

reactant | N-(3-ethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine | 115 mg | C(C)OC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C33H51NO5Si
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | (2S)-1-(3-ethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino-3-phenoxy-2-propanol hydrochloride | 30 mg | Cl.C(C)OC1=CC2=C(CCCC(C2)NC[C@@H](COC2=CC=CC=C2)O)C=C1 | InChI=1S/C22H29NO3.ClH/c1-2-25-22-12-11-17-7-6-8-19(13-18(17)14-22)23-15-20(24)16-26-21-9-4-3-5-10-21;/h3-5,9-12,14,19-20,23-24H,2,6-8,13,15-16H2,1H3;1H/t19?,20-;/m0./s1
